US07064116B2
3α,21-di-azido-5α-pregnan-20-one
A solution of 3α-azido-21-bromo-5α-pregnan-20-one (35 mg, 0.083 mmol) in DMSO (3 mL) was treated with sodium azide (33 mg, 0.5 mmol) and the resulting mixture was stirred at RT for 24 h. Addition of water and ethyl acetate and extraction of the organic layer with water, brine, drying (Na2SO4) and evaporation of the solvent in vacuo afforded after purification of the residue using flash colunm chromatography with dichloromethane/ethyl acetate 90/10 as elution solvent the compound named above.

reactant | 3α-azido-21-bromo-5α-pregnan-20-one | 0.083 mmol, 35 mg | N(=[N+]=[N-])[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CBr)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H32BrN3O
reactant | sodium azide | 0.5 mmol, 33 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | 3α,21-di-azido-5α-pregnan-20-one | N(=[N+]=[N-])[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CN=[N+]=[N-])=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H32N6O
